US03971797
To a solution of 0.1 mole of 3-ethoxycarbonyloxy-4-ethoxycarbonyloxymethyl-5-hydroxymethyl-2-methylpyridine in 200 ml. of benzene is added dropwise with stirring and cooling 0.15 moles of thionyl chloride. The reaction mixture is stirred for 1 hour and then filtered to give 5-chloromethyl-3-ethoxycarbonyloxy-4-ethoxycarbonyloxymethyl-2-methylpyridine hydrochloride.

reactant | 3-ethoxycarbonyloxy-4-ethoxycarbonyloxymethyl-5-hydroxymethyl-2-methylpyridine | 0.1 mole | C(C)OC(=O)OC=1C(=NC=C(C1COC(=O)OCC)CO)C | C14H19NO7
reactant | thionyl chloride | 0.15 moles | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 5-chloromethyl-3-ethoxycarbonyloxy-4-ethoxycarbonyloxymethyl-2-methylpyridine hydrochloride | Cl.ClCC=1C(=C(C(=NC1)C)OC(=O)OCC)COC(=O)OCC | InChI=1S/C14H18ClNO6.ClH/c1-4-19-13(17)21-8-11-10(6-15)7-16-9(3)12(11)22-14(18)20-5-2;/h7H,4-6,8H2,1-3H3;1H
